US07601714B2
cis-4-{[5-Nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexanol (3.6 g, 8.16 mmol) was dissolved in dry DCM (150 mL) and cooled to 5° C. Methanesulfonyl chloride (0.94 ml, 12.2 mmol) and diisopropylethylamine (4.26 ml, 24.4 mmol) were added sequentially. After 2 h, the reaction was quenched with cold water (10 mL) and warmed to room temperature. The solution was partitioned between DCM (100 mL) and water (50 mL). The layers were separated and the aqueous layer was extracted with DCM (2×100 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to yield a yellow solid. The residue was then chromatographed (silica, 100:1 DCM/MeOH) and washed with cold methanol to yield a pale yellow solid as methanesulfonic acid cis-4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl ester (3.90 g, 7.50 mmol, 92%).

reactant | cis-4-{[5-Nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexanol | 8.16 mmol, 3.6 g | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@H]1CC[C@H](CC1)O | C19H22F3N5O4
reactant | Methanesulfonyl chloride | 12.2 mmol, 0.94 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 24.4 mmol, 4.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid cis-4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl ester | 7.50 mmol, 3.90 g, 92% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@H]1CC[C@H](CC1)OS(=O)(=O)C | C20H24F3N5O6S
